US06537948B1
To a mixture of 0.5 g of 5-hydroxy-2-(methoxycarbonyl)methoxypyridine, 0.80 g of 2,5-difluoro-4-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-y]nitrobenzene and 5 ml of N,N-dimethylformamide was added 0.35 g of potassium carbonate, and the mixture was stirred for 1.5 hours at 50° C. The solution was cooled to room temperature, poured into a mixture of water, hydrochloric acid and saline, and extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography to obtain 0.93 g of 5-{4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]-2-nitrophenoxy}-2-(methoxycarbonyl)methoxypyridine.

reactant | 5-hydroxy-2-(methoxycarbonyl)methoxypyridine | 0.5 g | OC=1C=CC(=NC1)OCC(=O)OC | C8H9NO4
reactant | 2,5-difluoro-4-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-y]nitrobenzene | 0.80 g | FC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)[N+](=O)[O-] | C12H6F5N3O4
reactant | potassium carbonate | 0.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-{4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]-2-nitrophenoxy}-2-(methoxycarbonyl)methoxypyridine | 0.93 g | FC1=CC(=C(OC=2C=CC(=NC2)OCC(=O)OC)C=C1N1C(N(C(=CC1=O)C(F)(F)F)C)=O)[N+](=O)[O-] | C20H14F4N4O8
